US07091247B2
1) 3-Bromo-N-[2-(1-pyrrolidinyl)ethyl]phenylcarboxamide
1-(2-Aminoethyl)pyrrolidine (4.34 g), diethyl cyanophosphate (5.57 ml) and triethylamine (10.4 ml) were added to a solution of 3-bromobenzoic acid (5.00 g) in N,N-dimethylformamide (DMF; 60 ml), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with water and then extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residues were crystallized from hexane to give the title compound (6.31 g).

reactant | 1-(2-Aminoethyl)pyrrolidine | 4.34 g | NCCN1CCCC1 | C6H14N2
reactant | diethyl cyanophosphate | 5.57 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 10.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzoic acid | 5.00 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-Bromo-N-[2-(1-pyrrolidinyl)ethyl]phenylcarboxamide | 6.31 g | BrC=1C=C(C=CC1)C(=O)NCCN1CCCC1 | C13H17BrN2O
